US04839350
Benzhydryl 7-(phenoxyacetamido)-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylate (0.725 g) was dissolved in anisole (2 ml), to which trifluoroacetic acid (7 ml) was added under ice-cooling. The mixture was stirred for 1 hour under ice-cooling. The reaction mixture was concentrated under reduced pressure to give a syrup, whcih was then solidified by addition of isopropyl ether thereto. The solid obtained was pulverized and was mixed with isopropyl ether for the washing purpose, and the mixture was filtered to recover the solid which was then dried under reduced presssure. 7-(Phenoxyacetamido)-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid (0.512 g) was thus obtained.

reactant | Benzhydryl 7-(phenoxyacetamido)-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylate | 0.725 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H29N3O5S2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(Phenoxyacetamido)-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid | 0.512 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)O)C1=O | C21H19N3O5S2
